US07429565B2
2-{[4-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-phenoxy-phosphinoyloxy}-propionic acid ethyl ester
To a solution of 2-({4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phenoxy-phosphinoyloxy)-propionic acid ethyl ester (24 mg, 0.039 mmol) in DCM (1 mL) was added TFA (0.5 mL) and the mixture was stirred at room temperature for 10 minutes. The reaction mixture was dried under reduced pressure and the residue was purified by RP-HPLC to provide 18 mg (90%) of the desired product as a clear oil. 1H NMR (300 MHz, CDCl3) δ 1.18-1.34 (m, 3H), 1.36-1.48 (dd,3H), 2.02 (m, 3H), 2.17 (s, 3H), 2.78-2.98 (dd, 2H), 3.45 (m, 2H), 3.79 (s, 3H), 4.05-4.25 (m, 2H), 4.97 (m, 1H), 5.21 (s, 2H), 5.48 (t, J=7.2 Hz, 1H), 7.05-7.18 (m, 5H) ppm; 31P (121.4 MHz, CDCl3) δ 24.59, 26.13 ppm; MS (m/z) 517 [M−H]−, 519 [M+H]+.

reactant | 2-({4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phenoxy-phosphinoyloxy)-propionic acid ethyl ester | 0.039 mmol, 24 mg | C(C)OC(C(C)OP(=O)(OC1=CC=CC=C1)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)=O | C31H43O9PSi
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-{[4-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-phenoxy-phosphinoyloxy}-propionic acid ethyl ester | 18 mg, 90% | C(C)OC(C(C)OP(=O)(OC1=CC=CC=C1)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C)=O | C26H31O9P
